US05739299
3-Amino-4-chloro benzene sulphonyl fluoride (2 parts) was stirred in acetic/propionic acid 86/14 vol/vol (25 parts) and cooled to 0°-5° C. Nitrosyl sulphuric acid solution (3.8 parts) was added dropwise at 0°-5° C. and stirred under these conditions for 2 hours. The diazo solution was then added to a mixture of N-ethyl-N-benzyl aniline (2.7 parts), methanol (100 parts) and sulphamic acid (1 part) stirring at 0°-5° C. After stirring under these conditions for 30 mins, ice/water (100 parts) was added and the mixture stirred for a further 1 hour. The product was isolated by filtration, washed with water and pulled dry. The damp solid was then slurried in methanol (100 parts) and refiltered. Dried at 50° C. to yield 4-(2-chloro-5-fluorosulphonylphenylazo)-N-ethyl-N-benzyl aniline (2.3 parts).

reactant | 3-Amino-4-chloro benzene sulphonyl fluoride | NC=1C=C(C=CC1Cl)S(=O)(=O)F | C6H5ClFNO2S
reactant | Nitrosyl sulphuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | N-ethyl-N-benzyl aniline | C(C)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C15H17N
reactant | sulphamic acid | S(N)(O)(=O)=O | H3NO3S
solvent | acetic propionic acid | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C.C(CC)(=O)O
solvent | methanol | CO | CH4O
product | 4-(2-chloro-5-fluorosulphonylphenylazo)-N-ethyl-N-benzyl aniline | ClC1=C(C=C(C=C1)S(=O)(=O)F)N=NC1=CC=C(N(CC2=CC=CC=C2)CC)C=C1 | C21H19ClFN3O2S
